US05703240
1-(4-Benzyloxy-3-fluoro-phenyl)-5-methyl-1H-tetrazole
4-Benzyloxy-3-fluoro-phenylamine as a solution in acetic acid (50 ml) was heated to 75° under nitrogen. Triethylorthoacetate (10.3 ml) was added. After a further 45 min at this temperature, sodium azide (7.8 g) was added portionwise. Heating was continued for a further 3 h, the reaction cooled overnight and poured into sodium bicarbonate solution (8%, ca. 500 ml), extracted with dichloromethane (3×100 ml), dried (Na2SO4) and evaporated. The residue was purified by FCC with (dichloromethane/methanol (995:5)) to give the title compound as a solid (4.6 g). T.l.c. (Dichloromethane/methanol (995:5)), Rf 0.45.

reactant | 4-Benzyloxy-3-fluoro-phenylamine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N)F | C13H12FNO
reactant | Triethylorthoacetate | 10.3 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | sodium azide | 7.8 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium bicarbonate | ca. 500 ml | C([O-])(O)=O.[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 1-(4-Benzyloxy-3-fluoro-phenyl)-5-methyl-1H-tetrazole | 4.6 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1N=NN=C1C)F | C15H13FN4O
